US06406830B2
Into a four-necked flask were charged 4.7 parts of tetrahydrothiophene, 5.2 parts of dibromoacetone and 47.1 parts of acetone, and they were stirred at room temperature for 24 hours. The deposited crystals were filtered and washed with acetone. The obtained filter cake was combined with ether and the mixture was stirred. After filtration, the filter cake was washed with ether and dried to give 6.4 parts of 1,1′-(2-oxo-1,3-propanediyl)bis(tetrahydrothiophenium) dibromide. Yield: 66.9%.

reactant | tetrahydrothiophene | S1CCCC1 | C4H8S
reactant | dibromoacetone | BrC(C(C)=O)Br | C3H4Br2O
solvent | acetone | CC(=O)C | C3H6O
product | 1,1′-(2-oxo-1,3-propanediyl)bis(tetrahydrothiophenium) dibromide | Yield: 66.9% | [Br-].[Br-].O=C(C[S+]1CCCC1)C[S+]1CCCC1 | InChI=1S/C11H20OS2.2BrH/c12-11(9-13-5-1-2-6-13)10-14-7-3-4-8-14;;/h1-10H2;2*1H/q+2;;/p-2
